### PR TITLE
[Merged by Bors] - fix (RingTheory.Kaehler): short cut instances to remove timeouts

### PR DESCRIPTION
**Pull request by mattrobball**
This obviates the need for bumping timeout limits in `RingTheory.Kaehler` at the expense of explicit instances that Lean should easily be finding. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/TensorProduct.lean [hunk 1]
```diff
@@ -437,17 +437,21 @@ instance : AddMonoidWithOne (A ⊗[R] B) :=
...
+instance instMul : Mul (A ⊗[R] B) := ⟨fun a b ↦ mul a b⟩
+
+instance : NonUnitalNonAssocSemiring (A ⊗[R] B) where
+  -- porting note : `left_distrib` and `right_distrib` are proved by `simp` in mathlib3
+  -- See https://github.com/leanprover-community/mathlib4/issues/5026
+  -- Probably because `mul` is defined to be bi-R-linear and then coerced to function?
+  left_distrib a b c := show mul a (b + c) = mul a b + mul a c by simp
+  right_distrib a b c := show mul (a + b) c = mul a c + mul b c by simp
+  zero_mul a := show mul 0 a = 0 by simp
+  mul_zero a := show mul a 0 = 0 by simp
```
[the remark this answers is not in the document]
Comment (mattrobball) [reply Mathlib/RingTheory/TensorProduct.lean]: Oh. Sorry. Done.

File: Mathlib/RingTheory/TensorProduct.lean [hunk 2]
```diff
@@ -437,17 +437,18 @@ instance : AddMonoidWithOne (A ⊗[R] B) :=
 instance : AddCommMonoid (A ⊗[R] B) := by infer_instance
 
 -- providing this instance separately makes some downstream code substantially faster
-instance instMul : Mul (A ⊗[R] B) where
-  mul a b := mul a b
+instance instMul : Mul (A ⊗[R] B) := ⟨fun a b ↦ mul a b⟩
```
Comment (eric-wieser) [inline Mathlib/RingTheory/TensorProduct.lean:440]: Presumably this change is not needed?

Comment (mattrobball) [reply Mathlib/RingTheory/TensorProduct.lean:440]: No. I am blunt instrument. I'll restore it.

Comment (mattrobball) [reply Mathlib/RingTheory/TensorProduct.lean]: Done.

**Comment by riccardobrasca** [comment]
Can you please fix the conflicts? Thanks!

**Comment by mattrobball** [comment]
> Can you please fix the conflicts? Thanks!

Modulo the Rust errors (lol), it should build fine now though maybe not lint. I am still working on removing the hacky instances. If I don't succeed by early tomorrow, I will clean this up and mark it `awaiting-review`.

File: Mathlib/RingTheory/Ideal/QuotientOperations.lean [hunk 3]
```diff
@@ -168,11 +168,12 @@ instance Quotient.algebra {I : Ideal A} : Algebra R₁ (A ⧸ I) :=
     commutes' := fun _ _ => mul_comm _ _ }
 #align ideal.quotient.algebra Ideal.Quotient.algebra
 
--- -- Lean can struggle to find this instance later if we don't provide this shortcut
--- -- Porting note: this can probably now be deleted
--- instance Quotient.isScalarTower [SMul R₁ R₂] [IsScalarTower R₁ R₂ A] (I : Ideal A) :
---     IsScalarTower R₁ R₂ (A ⧸ I) := by infer_instance
--- #align ideal.quotient.is_scalar_tower Ideal.Quotient.isScalarTower
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Ideal/QuotientOperations.lean]: When was this removed?

Comment (mattrobball) [reply Mathlib/RingTheory/Ideal/QuotientOperations.lean]: In this PR during testing. It hurt.

**Comment by mattrobball** [comment]
I guess this is ok for now. There are some very silly things transpiring still but it is materially better than before.

File: Mathlib/Algebra/Module/Basic.lean [hunk 4]
```diff
@@ -127,8 +127,8 @@ protected def Function.Injective.module [AddCommMonoid M₂] [SMul R M₂] (f :
 /-- Pushforward a `Module` structure along a surjective additive monoid homomorphism. -/
 protected def Function.Surjective.module [AddCommMonoid M₂] [SMul R M₂] (f : M →+ M₂)
     (hf : Surjective f) (smul : ∀ (c : R) (x), f (c • x) = c • f x) : Module R M₂ :=
-  { hf.distribMulAction f smul with
-    smul := (· • ·)
+  { toDistribMulAction := hf.distribMulAction f smul
+    -- smul := (· • ·)
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Basic.lean:131]: We should delete these lines if they're dead code.

**Comment by mattrobball** [comment]
!bench

File: Mathlib/RingTheory/Ideal/Quotient.lean [hunk 5]
```diff
@@ -73,28 +73,21 @@ protected def ringCon (I : Ideal R) : RingCon R :=
 #align ideal.quotient.ring_con Ideal.Quotient.ringCon
 
 instance commRing (I : Ideal R) : CommRing (R ⧸ I) :=
-  { @Submodule.Quotient.addCommGroup _ _ (id _) (id _) (id _) I,
-    inferInstanceAs (CommRing (Quotient.ringCon I).Quotient) with }
+    inferInstanceAs (CommRing (Quotient.ringCon I).Quotient)
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Ideal/Quotient.lean:76]: I'm not sure about this one: it looks like it's trying to make it clear that `Quotient.ringCon I` and `QuotientAddGroup.con I.toAddSubgroup` are the same relation under the hood, though maybe that's not actually effective.

As a sanity check it would probably be good to add an `example` checking that no diamond is formed with `Submodule.Quotient.addCommGroup`

File: Mathlib/RingTheory/Ideal/QuotientOperations.lean [hunk 6]
```diff
@@ -175,6 +170,7 @@ instance Quotient.algebra {I : Ideal A} : Algebra R₁ (A ⧸ I) :=
 
 -- Lean can struggle to find this instance later if we don't provide this shortcut
 -- Porting note: this can probably now be deleted
+-- update: maybe note; removal causes timeouts
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Ideal/QuotientOperations.lean:173]:
```suggestion
-- update: maybe not; removal causes timeouts
```

File: Mathlib/RingTheory/Ideal/QuotientOperations.lean [hunk 7]
```diff
@@ -451,12 +447,13 @@ theorem quotient_map_comp_mkₐ {I : Ideal A} (J : Ideal B) (f : A →ₐ[R₁]
...
     (A ⧸ I) ≃ₐ[R₁] B ⧸ J :=
-  { quotientEquiv I J (f : A ≃+* B) hIJ with commutes' := fun r => by
-  { -- Porting note: Needed to add the below lemma because Equivs coerce weird
-    have : ∀ (e : RingEquiv (A ⧸ I) (B ⧸ J)), Equiv.toFun e.toEquiv = FunLike.coe e := fun _ ↦ rfl
-    rw [this]
-    simp only [quotientEquiv_apply, RingHom.toFun_eq_coe, quotientMap_algebraMap,
-  RingEquiv.coe_toRingHom, AlgEquiv.coe_ringEquiv, AlgEquiv.commutes, Quotient.mk_algebraMap]}}
+  { quotientEquiv I J (f : A ≃+* B) hIJ with
+    commutes' := fun r => by
+    { -- Porting note: Needed to add the below lemma because Equivs coerce weird
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Ideal/QuotientOperations.lean:452]: These curly brackets are a lean3-ism, right?

File: Mathlib/RingTheory/Kaehler.lean [hunk 8]
```diff
@@ -388,18 +385,42 @@ theorem KaehlerDifferential.End_equiv_aux (f : S →ₐ[R] S ⊗ S ⧸ KaehlerDi
...
-set_option maxHeartbeats 700000 in
--- Porting note: extra heartbeats are needed to infer the instance
--- Module S { x // x ∈ Ideal.cotangentIdeal (ideal R S) }
-set_option synthInstance.maxHeartbeats 200000 in
--- This has type
--- `Derivation R S (Ω[S⁄R]) ≃ₗ[R] Derivation R S (KaehlerDifferential.ideal R S).cotangentIdeal`
--- But lean times-out if this is given explicitly.
+/- After porting note: Lean is slow to synthesize theses instances.
+  Without them the endEquivDerivation' and endEquivAuxEquiv both have
+  significant timeouts. This was not the case in Mathlib 3 -/
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Kaehler.lean:390]:
```suggestion
/- Note: Lean is slow to synthesize theses instances.
  Without them the endEquivDerivation' and endEquivAuxEquiv both have
  significant timeouts. -/
```
This basically was the case in mathlib3; at least, now that you wrote the type explicitly as `Derivation R S (Ω[S⁄R]) ≃ₗ[R] Derivation R S (KaehlerDifferential.ideal R S).cotangentIdeal`

File: Mathlib/RingTheory/Kaehler.lean [hunk 9]
```diff
@@ -388,18 +385,42 @@ theorem KaehlerDifferential.End_equiv_aux (f : S →ₐ[R] S ⊗ S ⧸ KaehlerDi
...
+local instance : SMul (S ⊗[R] S ⧸ KaehlerDifferential.ideal R S ^ 2)
+    (S ⊗[R] S ⧸ KaehlerDifferential.ideal R S ^ 2) := Algebra.toSMul
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Kaehler.lean:392]: `Algebra.toSMul` is not supposed to ever be used (it has priority 0)

Comment (eric-wieser) [reply Mathlib/RingTheory/Kaehler.lean:392]: https://github.com/leanprover-community/mathlib4/blob/86ac6bf9dd506d502b43d848103031eaf1e8bc7c/Mathlib/Algebra/Algebra/Basic.lean#L344-L345

Comment (eric-wieser) [reply Mathlib/RingTheory/Kaehler.lean:392]: I don't understand why we deleted that, I think it should be restored (and I'd be interested to know how that affects performance)

Comment (mattrobball) [reply Mathlib/RingTheory/Kaehler.lean:392]: I can restore it but the answer is that adds extra tc synthesis passes on goals that are already slow (see above).

Comment (mattrobball) [reply Mathlib/RingTheory/Kaehler.lean:392]: > `Algebra.toSMul` is not supposed to ever be used (it has priority 0)

That’s what it finds naturally. I’m sure `Mul.toSMul` will be fine.

File: Mathlib/RingTheory/Kaehler.lean (hunk 8 above)
Comment (mattrobball) [reply Mathlib/RingTheory/Kaehler.lean:390]: Perhaps it should read “slower”

File: Mathlib/RingTheory/Ideal/QuotientOperations.lean (hunk 7 above)
Comment (mattrobball) [reply Mathlib/RingTheory/Ideal/QuotientOperations.lean:452]: Don’t you need them with the `with` syntax?

File: Mathlib/RingTheory/Ideal/Quotient.lean (hunk 5 above)
Comment (mattrobball) [reply Mathlib/RingTheory/Ideal/Quotient.lean:76]: This is a good point. I’ll probably revert for this PR after testing performance. Keep it streamlined

File: Mathlib/RingTheory/Kaehler.lean (hunk 9 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/Kaehler.lean:392]: My understanding is that performance-wise, `Algebra.toSMul` is a bad instance because it shortcuts `Algebra.toModule, `Module.toDistribMulAction`, `DistribMulAction.toMulAction`, and `MulAction.toSMul`. We shouldn't have transitive shortcuts, because then the number of instances we have grows massively.

I think @digama0 has expressed this opinion before?

File: Mathlib/RingTheory/Ideal/QuotientOperations.lean (hunk 7 above)
Comment (mattrobball) [reply Mathlib/RingTheory/Ideal/QuotientOperations.lean:452]: Oh. *Those* braces

File: Mathlib/RingTheory/Kaehler.lean (hunk 9 above)
Comment (mattrobball) [reply Mathlib/RingTheory/Kaehler.lean:392]: That makes sense. `Mul.toSMul` keeps things below the timeout but seems (to the human eye) to elaborate more slowly

File: Mathlib/RingTheory/Ideal/Quotient.lean (hunk 5 above)
Comment (mattrobball) [reply Mathlib/RingTheory/Ideal/Quotient.lean:76]: This `rfl`'s instantly so I'll include the example and leave as is

**Comment by kbuzzard** [comment]
It's probably worth commenting that (if I counted correctly) this reduces the number of `maxHeartbeats` bumps in this file from 6 to 0. A few days ago there were 16 and it was one of the slowest files in mathlib.

**Comment by mattrobball** [comment]
!bench

File: Mathlib/RingTheory/Kaehler.lean (hunk 9 above)
Comment (mattrobball) [reply Mathlib/RingTheory/Kaehler.lean]: De-instanced `Algebra.toSMul` in #6219. Experiments indicate it would slow things down even more.

File: Mathlib/RingTheory/Kaehler.lean [hunk 10]
```diff
@@ -388,18 +385,42 @@ theorem KaehlerDifferential.End_equiv_aux (f : S →ₐ[R] S ⊗ S ⧸ KaehlerDi
...
--- Module S { x // x ∈ Ideal.cotangentIdeal (ideal R S) }
-set_option synthInstance.maxHeartbeats 200000 in
--- This has type
--- `Derivation R S (Ω[S⁄R]) ≃ₗ[R] Derivation R S (KaehlerDifferential.ideal R S).cotangentIdeal`
--- But lean times-out if this is given explicitly.
+/- Note: Lean is slow to synthesize theses instances (times out).
+  Without them the endEquivDerivation' and endEquivAuxEquiv both have significant timeouts.
+  In Mathlib 3, it was slow but not this slow. -/
+local instance : SMul (S ⊗[R] S ⧸ KaehlerDifferential.ideal R S ^ 2)
+    (S ⊗[R] S ⧸ KaehlerDifferential.ideal R S ^ 2) := Mul.toSMul _
```
Comment (mattrobball) [inline Mathlib/RingTheory/Kaehler.lean:392]: While the three `Module` instances don't seem terrible, this `SMul` and the three `IsScalarTower`'s seem like things Lean should find quickly.

File: Mathlib/RingTheory/Kaehler.lean (hunk 9 above)
Comment (digama0) [reply Mathlib/RingTheory/Kaehler.lean]: > I think @digama0 has expressed this opinion before?

I have expressed the opposite, basically lamenting that we can't have these instances because they would significantly decrease the cost of adding new intermediate classes if we could have shorter "expressways" which skip the intermediates and are preferred. Having them greatly increases the (already exponential) number of paths through the graph, but whether this is a crippling problem or not at all hinges rather delicately on details of the typeclass inference algorithm and we have gone back and forth between preferring and dispreferring transitive shortcut instances.

**Comment by mattrobball** [comment]
Three observations from the last run:
- fairly stable overall
- improvement in `Ideal.Quotient` probably due to removal of unnecessary `smul` fields in `Module.Basic`
- changing to `Mul.toSMul` seems to have little effect on performance in `Kaehler`

**Comment by mattrobball** [comment]
I think this is ready to be merged and further tinkering can be more focused in separate PRs

**Comment by eric-wieser** [comment]
In this interest of granular benchmarking, my preference would be to split this PR in two:

* make the tweaks to the foundational instances as you do in this PR
* Add the shortcut instances and nothing else

**Comment by mattrobball** [comment]
Sounds good. I should be able to do the split in a few hours

**Comment by mattrobball** [comment]
!bench

**Comment by mattrobball** [comment]
Run cancelled. This is the only instances now.

**Comment by mattrobball** [comment]
One can compare [this run](http://speedcenter.informatik.kit.edu/mathlib4/compare/8a8ae7f5-7f83-4994-84fb-0fd821345634/to/cf8599d5-9dbf-4104-9315-f3c0677c847c) for the whole package to [this one](http://speedcenter.informatik.kit.edu/mathlib4/run-detail/ee1ac79b-3f4b-468d-9346-6d49c006c2b7) for the foundational instances. 

Taking a set difference, it looks like this will speed up `Kaehler` by ~40% and not do much else. Do we need another speed run before merging?

File: Mathlib/RingTheory/Kaehler.lean [hunk 11]
```diff
@@ -388,18 +385,42 @@ theorem KaehlerDifferential.End_equiv_aux (f : S →ₐ[R] S ⊗ S ⧸ KaehlerDi
...
+
+theorem isScalarTower_S_right : IsScalarTower S (S ⊗[R] S ⧸ KaehlerDifferential.ideal R S ^ 2)
+    (S ⊗[R] S ⧸ KaehlerDifferential.ideal R S ^ 2) := IsScalarTower.right
+
+attribute [local instance] isScalarTower_S_right
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Kaehler.lean:397]: Why a `theorem` and not `local instance`?

Comment (mattrobball) [reply Mathlib/RingTheory/Kaehler.lean:397]: `defLemma` complained. Is there a better fix?

Comment (eric-wieser) [reply Mathlib/RingTheory/Kaehler.lean:397]: That sounds like a bug in `local instance` that we should report somewhere. I think a minimal repro is
```lean
local instance : Fact True := sorry
```

Comment (mattrobball) [reply Mathlib/RingTheory/Kaehler.lean:397]: It isn't making that easy for me. But `local` is definitely the trigger. I am going to try to minimize in a bit. This has occurred for me before with `Fact` deep into the library. Maybe the import is messing things up? We'll see.

Comment (eric-wieser) [reply Mathlib/RingTheory/Kaehler.lean:397]: I think the problem is that `instance` is just always a `def`

Comment (mattrobball) [reply Mathlib/RingTheory/Kaehler.lean:397]: It is a `def` with or without the local. Should [this](https://github.com/leanprover/std4/blob/e3c2be331da9ddeef7f82ca363f072a68d7210b3/Std/Tactic/Lint/Misc.lean#L96)
```lean 
    if (← isAutoDecl declName) || isGlobalInstance (← getEnv) declName then
```
be 
```lean
    if (← isAutoDecl declName) || (← isInstance declName) then
```
?

Comment (mattrobball) [reply Mathlib/RingTheory/Kaehler.lean:397]: Hmm. Probably out of scope regardless

Comment (mattrobball) [reply Mathlib/RingTheory/Kaehler.lean]: I didn't figure out how to read local instances in the scope that `#lint` works in. For now, it seems better just to `nolint` and bring the issue up on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/348111-std4/topic/local.20instances.20in.20.23lint).

**Comment by mattrobball** [comment]
!bench

**Comment by jcommelin** [comment]
Great work! Thanks :tada:

bors merge
